US08383659B2
Acetyl chloride (7.09 g) is added to a suspension of AlCl3 (11.53 g) in dichloromethane (310 ml) at 0° C. After 45 minutes at 0° C., 2-bromo-3-methylthiophene (5.0 g) is added dropwise. After 1 hour at 0° C., the reaction is quenched by added water (100 ml). The mixture is extracted three times with dichloromethane. The organic phases are combined, dried over MgSO4 and concentrated in vacuo. The crude product is purified by chromatography on silica gel (180 g) eluting with a mixture of ethyl acetate and heptane (1:6) to yield 1-{5-bromo-4-methyl-thiophen-2-yl}-ethanone (3.5 g) as a brown solid.

reactant | Acetyl chloride | 7.09 g | C(C)(=O)Cl | C2H3ClO
reactant | AlCl3 | 11.53 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 2-bromo-3-methylthiophene | 5.0 g | BrC=1SC=CC1C | C5H5BrS
solvent | dichloromethane | 310 ml | ClCCl | CH2Cl2
product | 1-{5-bromo-4-methyl-thiophen-2-yl}-ethanone | 3.5 g | BrC1=C(C=C(S1)C(C)=O)C | C7H7BrOS
